US07390923B2
a) [2-(4-Benzyloxyphenoxy)ethyl]dimethylamine
4-(Benzyloxy)phenol (2.89 g, 0.01443 mol) in dimethylformamide (15 ml) and 2-(dimethylamino)ethyl chloride hydrochloride (2.32 g, 0.01611 mol) were added simultaneously in small portions to a 55-65% sodium hydride dispersion in mineral oil (0.033 mol) in dimethylformamide (5 ml) at 0° C. Then the mixture was allowed to warm to 90° C., and stirring was continued for 1.5 h. The cooled mixture was poured into water. The resultant mixture was extracted with toluene. The combined extracts were washed with 2.5 M NaOH and water and dried over Na2SO4. Toluene was evaporated and the residual product was used as such in the next step.

reactant | 4-(Benzyloxy)phenol | 0.01443 mol, 2.89 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.01611 mol, 2.32 g | Cl.CN(CCCl)C
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [2-(4-Benzyloxyphenoxy)ethyl]dimethylamine | C(C1=CC=CC=C1)OC1=CC=C(OCCN(C)C)C=C1 | C17H21NO2
